US06117875
A solution of 2-[3-(3-acetamidophenyl)phenylamino]-3-nitropyridine (10 g) in 3N hydrochloric acid (100 ml) was refluxed for 2 hours. The cold reaction was adjusted to pH 8 with saturated sodium bicarbonate solution and precipitated reddish crystals were collected, washed with water and dried to give 2-[3-(3-aminophenyl)phenylamino]-3-nitropyridine (9.53 g).

reactant | 2-[3-(3-acetamidophenyl)phenylamino]-3-nitropyridine | 10 g | C(C)(=O)NC=1C=C(C=CC1)C=1C=C(C=CC1)NC1=NC=CC=C1[N+](=O)[O-] | C19H16N4O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | 3N, 100 ml | Cl | ClH
product | 2-[3-(3-aminophenyl)phenylamino]-3-nitropyridine | 9.53 g | NC=1C=C(C=CC1)C=1C=C(C=CC1)NC1=NC=CC=C1[N+](=O)[O-] | C17H14N4O2
